US07179818B2
A mixture of of 3-aminoquinuclidine dihydrochloride (2.0 g, 10.0 mmol), NEt3 (1.3 mL) and 3-chlorobenzaldehyde (1.5 g, 11.0 mmol) in THF (50 mL) was stirred at room temperature. To this was added Na(OAc)3BH 13.2 g, 15 mmol) and the reaction was stirred overnight. The reaction mixture was diluted with 3N NaOH and water and extracted with EtOAc. The organic extracts were combined, washed with water and then brine and dried over K2CO3. The solution was filtered and the solvent was evaporated in vacuo to give an oil which was chromatographed on silica (94/6 CHCl3/0.5 M NH3 in MeOH). The appropriate fractions were combined and the solvent was evaporated in vacuo to give N-[(3-chlorophenyl)methyl]-1-azabicyclo[2.2.2]octan-3-amine (0.75 g, 30%) as an intermediate, a light yellow semi-solid. MH+=251,253. The 1H NMR was consistent with the assigned structure.

reactant | 3-aminoquinuclidine dihydrochloride | 10.0 mmol, 2.0 g | Cl.Cl.NC1CN2CCC1CC2
reactant | NEt3 | 1.3 mL | CCN(CC)CC | C6H15N
reactant | 3-chlorobenzaldehyde | 11.0 mmol, 1.5 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | Na(OAc)3BH | 15 mmol, 13.2 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | NaOH | 3N | [OH-].[Na+]
solvent | water | O | H2O
product | N-[(3-chlorophenyl)methyl]-1-azabicyclo[2.2.2]octan-3-amine | 0.75 g, 30% | ClC=1C=C(C=CC1)CNC1CN2CCC1CC2 | C14H19ClN2
